US08809342B2
A mixture of 4-bromo-3-methoxybenzonitrile (500 mg, 2.36 mmol), 4-(trifluoromethyl)phenyl boronic acid (671.9 mg, 3.54 mmol) and potassium fluoride (411 mg, 7.08 mmol) in toluene (11 mL) and water (3 mL) was purged with nitrogen. Pd(PPh3)4 (272.7 mg, 0.236 mmol) was added. The resulting mixture was heated at reflux overnight. The reaction mixture was washed with water (200 ml) and extracted with ethyl acetate (150 mL*4). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to give 2-methoxy-4′-(trifluoromethyl)biphenyl-4-carbonitrile (620 mg) as a colorless solid. 1HNMR (400 MHz, CDCl3) δ 7.68 (d, J=8.4 Hz, 2H), 7.60 (d, J=8.4 Hz, 2H), 7.36-7.40 (m, 2H), 7.22 (s, 1H), 3.87 (s, 3H).

reactant | 4-bromo-3-methoxybenzonitrile | 2.36 mmol, 500 mg | BrC1=C(C=C(C#N)C=C1)OC | C8H6BrNO
reactant | 4-(trifluoromethyl)phenyl boronic acid | 3.54 mmol, 671.9 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium fluoride | 7.08 mmol, 411 mg | [F-].[K+]
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.236 mmol, 272.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methoxy-4′-(trifluoromethyl)biphenyl-4-carbonitrile | 620 mg | COC1=C(C=CC(=C1)C#N)C1=CC=C(C=C1)C(F)(F)F | C15H10F3NO
